US08580229B2
To a solution of 2-(4′-nitrophenyl)-6-methylsulfoxy benzothiazole (35 mg, 0.10 mmol) dissolved in ethanol (10 mL) was added SnCl2.2H2O (50 mg). The reaction mixture was heated to reflux for 1.5 hr. The solvent was then removed under reduced pressure. The residue was dissolved in ethyl acetate (10 mL), washed with 1N NaOH, water, dried over MgSO4. Evaporation of the solvent afforded 2-(4′-aminophenyl)-6-methylsulfoxy benzothiazole (21 mg, 65%) as pale brown solid. 1HNMR (300 MHz, CDCl3) δ (ppm): 8.02 (d, J=6.2 Hz, 1H), 7.92 (d, J=8.7 Hz, 2H), 7.84 (d, J=2.4 Hz, 1H), 7.38 (dd, J1=2.4 Hz, J2=6.2 Hz, 1H), 6.78 (d, J=8.7 Hz, 2H), 2.21 (s, 3H, CH3).

reactant | 2-(4′-nitrophenyl)-6-methylsulfoxy benzothiazole | 0.10 mmol, 35 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC2=C(N1)C(=CC(=C2)C)OS(=O)(=O)O | C14H10N2O6S2
reactant | SnCl2.2H2O | 50 mg | O.O.Cl[Sn]Cl
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(4′-aminophenyl)-6-methylsulfoxy benzothiazole | 21 mg, 65% | NC1=CC=C(C=C1)C=1SC2=C(N1)C(=CC(=C2)C)OS(=O)(=O)O | C14H12N2O4S2
